US06232476B1
To sodium ethoxide (5.72 g, 84 mmol) in 50 ml of anhydrous ethanol was added 14.8 g (77 mmol) of ethyl benzoylacetate with stirring. The reaction mixture was then brought to a gentle reflux and 19.6 g (70 mmol) of 1-Bromo-2-bromomethyl-4-methoxy-benzene in 20 ml of ethanol was added over 20 min. The reaction mixture was refluxed for 2 h. The reaction mixture was cooled, filtered and concentrated. The concentrated mixture was subjected to acid hydrolysis and decarboxylation by refluxing for overnight in a solution containing 40 ml of glacial acetic acid, 5 ml of concentrated sulfuric acid, and 10 ml of water. The reaction mixture was then neutralized with 10% NaOH and extracted with methylene chloride. The extracts were concentrated to give a weight of 19.43 g crude 3-(2-Bromo-5-methoxy-phenyl)-1-phenyl-propan-1-one (yield: 87%). This compound was used in next step without further purification.

reactant | sodium ethoxide | 84 mmol, 5.72 g | [O-]CC.[Na+]
reactant | ethyl benzoylacetate | 77 mmol, 14.8 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | 1-Bromo-2-bromomethyl-4-methoxy-benzene | 70 mmol, 19.6 g | BrC1=C(C=C(C=C1)OC)CBr | C8H8Br2O
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3-(2-Bromo-5-methoxy-phenyl)-1-phenyl-propan-1-one | 19.43 g, yield: 87% | BrC1=C(C=C(C=C1)OC)CCC(=O)C1=CC=CC=C1 | C16H15BrO2
